US05034051
In place of 6-fluoro-5-isocyanato-3-propargyl-2-benzothiazolone in the foregoing Example 1, use was made of 6-fluoro-5-isothiocyanato-3-propargyl-2-benzothiazolone and 7-fluoro-6-isocyanato-4-propargyl-4H-1,4-benzoxazin-3-one so as to obtain 5,8-dihydro-2-(6-fluoro-3-propargyl-2-benzothiazolon-5-yl)-1H-[1,2,4]triazolo-[1,2-a]pyridazine-1-thion-3(2H)-one and 5,8-dihydro-2-(7-fluoro-4-propargyl-4H-1,4-benzoxazin-3(4H)-on-6-yl)-1H-[1,2,4]triazolo-[1,2-a]pyridazine-1,3(2H)-dione, respectively.

reactant | 6-fluoro-5-isocyanato-3-propargyl-2-benzothiazolone | FC1=CC2=C(N(C(S2)=O)CC#C)C=C1N=C=O | C11H5FN2O2S
reactant | 6-fluoro-5-isothiocyanato-3-propargyl-2-benzothiazolone | FC1=CC2=C(N(C(S2)=O)CC#C)C=C1N=C=S | C11H5FN2OS2
reactant | 7-fluoro-6-isocyanato-4-propargyl-4H-1,4-benzoxazin-3-one | FC1=CC2=C(N(C(CO2)=O)CC#C)C=C1N=C=O | C12H7FN2O3
product | 5,8-dihydro-2-(6-fluoro-3-propargyl-2-benzothiazolon-5-yl)-1H-[1,2,4]triazolo-[1,2-a]pyridazine-1-thion-3(2H)-one | FC1=CC2=C(N(C(S2)=O)CC#C)C=C1N1C(N2N(CC=CC2)C1=S)=O | C16H11FN4O2S2
